US09227978B2
(S)-tert-Butyl 3-(4-(2-((5-bromo-4-chloro-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate
To a solution of (S)-2-(5-bromo-4-chloro-2-methoxyphenylamino)propanoic acid (1.6 g, 5.21 mmol), tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate (1.88 g, 7.82 mmol), EDCI.HCl (2.0 g, 10.42 mmol), HOBt (1.41 g, 10.42 mmol) in DMF (20 mL) at 0° C., Et3N (1.58 g, 15.63 mmol) was added. The resulting mixture was stirred at RT for 16 h and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (methanol/dichloroethane=1:50) to afford the desired product (2.1 g, 76% yield). ESI-MS m/z: 531.3[M+H]+.

reactant | (S)-2-(5-bromo-4-chloro-2-methoxyphenylamino)propanoic acid | 5.21 mmol, 1.6 g | BrC=1C(=CC(=C(C1)N[C@H](C(=O)O)C)OC)Cl | C10H11BrClNO3
reactant | tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate | 7.82 mmol, 1.88 g | N1(CCNCC1)C1CN(C1)C(=O)OC(C)(C)C | C12H23N3O2
reactant | EDCI.HCl | 10.42 mmol, 2.0 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 10.42 mmol, 1.41 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 15.63 mmol, 1.58 g | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 3-(4-(2-((5-bromo-4-chloro-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 2.1 g, 76% yield | BrC=1C(=CC(=C(C1)N[C@H](C(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C)OC)Cl | C22H32BrClN4O4
